US07772234B2
To a suspension of 4-amino-7-(4-bromo-2-fluorophenylamino)-8-fluorocinnoline-6-carboxylic acid hydrazide (1.00 equiv.) in 1,4-dioxane at room temperature is added BrCN (2.00 equiv.) followed by a solution of NaHCO3 (1.00 equiv.) in H2O. After stirring for 3 hours at room temperature, the reaction mixture is diluted with water and extracted with EtOAc. The organic layer is washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure to give the crude material that is purified by trituration or flash column chromatography to afford 6-(5-amino-[1,3,4]oxadiazol-2-yl)-N7-(4-bromo-2-fluoro-phenyl)-8-fluorocinnoline-4,7-diamine.

reactant | 4-amino-7-(4-bromo-2-fluorophenylamino)-8-fluorocinnoline-6-carboxylic acid hydrazide | 1.00 equiv. | NC1=CN=NC2=C(C(=C(C=C12)C(=O)NN)NC1=C(C=C(C=C1)Br)F)F | C15H11BrF2N6O
reactant | BrCN | 2.00 equiv. | BrC#N | CBrN
reactant | NaHCO3 | 1.00 equiv. | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | H2O | O | H2O
product | 6-(5-amino-[1,3,4]oxadiazol-2-yl)-N7-(4-bromo-2-fluoro-phenyl)-8-fluorocinnoline-4,7-diamine | NC1=NN=C(O1)C=1C=C2C(=CN=NC2=C(C1NC1=C(C=C(C=C1)Br)F)F)N | C16H10BrF2N7O
